US07541372B2
N-{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-acetamide
To a solution of 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine (200 mg, 0.57 mmol) in tetrahydrofuran (4 mL) were added N,N-diisopropylamine (111 mg, 0.86 mmol), 4-dimethylaminopyridine (7.0 mg, 0.06 mmol) and acetyl chloride (59 mg, 0.75 mmol) and the reaction mixture was stirred at ambient temperature for 6 h. The resulting suspension was extracted with ethyl acetate (20 mL) and the combined organic layers were washed with aqueous sodium carbonate (saturated). Drying over sodium sulfate and concentration afforded the title compound (162 mg, 72%) as a yellow solid. MS: m/e=391.2 [M+H]+.

reactant | 3-methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenylamine | 0.57 mmol, 200 mg | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)N | C19H16N4O3
reactant | N,N-diisopropylamine | 0.86 mmol, 111 mg | C(C)(C)NC(C)C | C6H15N
reactant | acetyl chloride | 0.75 mmol, 59 mg | C(C)(=O)Cl | C2H3ClO
solvent | tetrahydrofuran | 4 mL | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.06 mmol, 7.0 mg | CN(C1=CC=NC=C1)C | C7H10N2
product | N-{3-Methoxy-4-[5-(5-methyl-3-phenyl-isoxazol-4-yl)-[1,3,4]oxadiazol-2-yl]-phenyl}-acetamide | 162 mg, 72% | COC=1C=C(C=CC1C=1OC(=NN1)C=1C(=NOC1C)C1=CC=CC=C1)NC(C)=O | C21H18N4O4
